Name:  ___                    Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
RLE skin abscess
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ man with a past history of eczema
and buttock abscess who presents for re-evaluation of a R calf
rash and abscess that began last week.

6 days ago Mr. ___ developed a "pimple" on the back of his
right leg, with no associated inciting event or trauma.  He
noticed worsening swelling and redness around the site, had a
subjective fever the next day, and took Bactrim (that he
previously had at home from a staph infection) for ___ days,
noting some improvement.

He was seen by his PCP 2 days ago and was referred to the ED for
evaluation.  PCP performed wound cx and gram stain - gram stain
showed no WBCs and no orgs, cx pending.  I&D of the abscess was
performed in the ED and he was given 1g of IV vancomycin twice 
in
observation.  Borders of the rash were marked and he was
discharged on a 10-day course of doxycycline (100mg BID).

He took two doses of doxycycline PO at home but did not note any
improvement in the size or appearance of the rash.  After being
evaluated by his PCP today Mr. ___ re-presented to the ED. 
He endorsed ___ pain with standing on his R leg in the ED but
denies fevers, chills, pruritic, N/V/D, CP, SOB, joint pain and
abdominal pain.  Denies recent sore throats or URI. 

He does have a history of a 2cm buttock abscess ___ which 
grew
oxacillin-S Staph aureus on wound cx and resolved with Bactrim. 
He also describes recent occasional "pimples" on his extremities
tx with warm compresses or clinda lotion.  Reports that his
daughter had a "pimple" on her arm and he worries that he has a
contagious undertreated infection.  Has a documented PCN 
allergy,
developed an abdominal rash in ___ when he was erroneously 
given
PCN to treat mono.

In the ED:
- Initial vital signs were notable for:
T 98.4, HR 74, BP 136/92, RR 16, O2Sat 99
- Exam notable for: R lateral calf redness expanding 4-5cm, 
tense
skin
- Labs were notable for: WBC 5.3, lactate 0.9
- Studies performed include: Bedside U/S showed phlegmon, no
fluid collection 
- Patient was given: 1g IV vancomycin
- Consults: Discussed with ID who agreed with admitting to
medicine for IV vanc

Vitals on transfer: 
Temp: 98.3 PO BP: 121/79 (R Sitting) HR: 58 RR: 18 O2 sat: 98% 
O2
delivery: Ra 

Upon arrival to the floor, he reports that the discomfort
associated with his rash and its appearance have both notably
improved since receiving vancomycin.  He reports that the rash
was expanding beyond its inferior marked margin yesterday, but
has receded since receiving vanc in the ED.  Reported ___ pain
with standing on the leg in the ED that has now completely
resolved.

REVIEW OF SYSTEMS: Complete ROS obtained and is otherwise
negative.
 
Past Medical History:
Eczematous dermatitis 
Bunion
Buttock abscess
Epidermal inclusion cyst
Folliculitis
 
Social History:
___
Family History:
Maternal Grandmother ___ at age ___ CAD/PVD; dementia 
Paternal Grandmother ___ at age ___ Hyperlipidemia; dementia
Maternal Grandfather ___ at age ___ No Significant Medical
History 
Paternal Grandfather ___ at age ___ cataracts 
Brother, sister, daughter, parents alive, no significant medical
history, son born premature but otherwise healthy

 
Physical Exam:
ADMISSION PHYSICAL EXAM:
======================
VITALS: T98.3 PO BP: 121/79 (R Sitting) HR: 58 RR: 18 O2 sat: 
98%
O2 delivery: Ra 
GENERAL: Alert and interactive, sitting in bed comfortably
working on computer, in no acute distress.
HEENT: NCAT. Sclera anicteric and without injection. MMM, no 
oral
mucosal lesions, no cervical LAD
CARDIAC: Regular rhythm, normal rate. Audible S1 and S2. No
murmurs/rubs/gallops.
LUNGS: Lungs clear to auscultation bilaterally. No wheezes,
rhonchi or rales. No increased work of breathing.
ABDOMEN: Normal bowel sounds, abdomen is non-distended,
non-tender to deep palpation in all four quadrants. No
organomegaly.
EXTREMITIES: No clubbing, cyanosis, or edema. DP pulses 2+
bilaterally.  R lateral/posterior calf erythema, ~5cm in
diameter, 1cm within marked margin.  Warm but non-tender to the
touch, poorly defined borders.  Single central macule with
central dimple, expresses serosang material with gentle 
pressure,
no flaking, pustules, bullae, or petechiae. 
NEUROLOGIC: Grossly normal strength and sensation 

DISCHARGE PHYSICAL EXAM:
======================
VITALS: 24 HR Data (last updated ___ @ 2338)
    Temp: 97.6 (Tm 98.1), BP: 127/79 (113-132/70-82), HR: 54
(53-60), RR: 18, O2 sat: 95% (95-97), O2 delivery: RA  
GENERAL: Alert and interactive, lying in bed, in no acute
distress.
CARDIAC: Regular rhythm, normal rate.
LUNGS: No increased work of breathing.
ABDOMEN: Normal bowel sounds, abdomen is non-distended,
non-tender
EXTREMITIES: No clubbing, cyanosis, or edema. DP pulses 2+
bilaterally.  R lateral/posterior calf erythema, ~5cm in 
diameter
Single central macule with central dimple, improving surrounding
induration and surrounding erythema. no flaking, pustules,
bullae, or petechiae. 
NEUROLOGIC: Grossly normal strength and sensation 

 
Pertinent Results:
ADMISSION LABS:
==============
___ 03:29PM URINE  HOURS-RANDOM
___ 03:29PM URINE  UHOLD-HOLD
___ 03:29PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:29PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-TR* 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.5 
LEUK-NEG
___ 03:29PM URINE  RBC-<1 WBC-<1 BACTERIA-NONE YEAST-NONE 
EPI-<1
___ 03:29PM URINE  MUCOUS-RARE*
___ 03:26PM URINE  HOURS-RANDOM
___ 03:26PM URINE  UHOLD-HOLD
___ 03:26PM URINE  COLOR-Straw APPEAR-Clear SP ___
___ 03:26PM URINE  BLOOD-NEG NITRITE-NEG PROTEIN-NEG 
GLUCOSE-NEG KETONE-NEG BILIRUBIN-NEG UROBILNGN-NEG PH-6.0 
LEUK-NEG
___ 12:21PM   LACTATE-0.9
___ 12:10PM   GLUCOSE-100 UREA N-14 CREAT-1.0 SODIUM-138 
POTASSIUM-4.3 CHLORIDE-101 TOTAL CO2-26 ANION GAP-11
___ 12:10PM   WBC-5.3 RBC-4.76 HGB-14.7 HCT-44.3 MCV-93 
MCH-30.9 MCHC-33.2 RDW-11.9 RDWSD-41.3
___ 12:10PM   NEUTS-70.5 ___ MONOS-6.2 EOS-0.8* 
BASOS-0.6 IM ___ AbsNeut-3.74 AbsLymp-1.14* AbsMono-0.33 
AbsEos-0.04 AbsBaso-0.03
___ 12:10PM   PLT COUNT-179

DISCHARGE LABS:
===============
___ 06:00AM BLOOD WBC-5.4 RBC-4.65 Hgb-14.4 Hct-43.0 MCV-93 
MCH-31.0 MCHC-33.5 RDW-12.2 RDWSD-41.3 Plt ___
___ 06:00AM BLOOD Glucose-92 UreaN-14 Creat-0.8 Na-141 
K-4.3 Cl-104 HCO3-24 AnGap-13

IMAGING:
========
R LENIS ___:
FINDINGS: 
There is normal compressibility, color flow, and spectral 
doppler of the right
common femoral, femoral, and popliteal veins. Normal color flow 
and
compressibility are demonstrated in the posterior tibial and 
peroneal veins.
There is normal respiratory variation in the common femoral 
veins bilaterally.
No evidence of medial popliteal fossa (___) cyst.
 
IMPRESSION: No evidence of deep venous thrombosis in the right 
lower extremity veins.

MICROBIOLOGY:
=============
__________________________________________________________
___ 6:57 pm SWAB      Source: R lower leg. 

                            **FINAL REPORT ___

   GRAM STAIN (Final ___: 
      NO POLYMORPHONUCLEAR LEUKOCYTES SEEN. 
      NO MICROORGANISMS SEEN. 

   WOUND CULTURE (Final ___: 
      STAPH AUREUS COAG +.    RARE GROWTH. 

                              SENSITIVITIES: MIC expressed in 
MCG/ML
                      
_________________________________________________________
                             STAPH AUREUS COAG +
                             |   
CLINDAMYCIN-----------   =>8 R
ERYTHROMYCIN----------   =>8 R
GENTAMICIN------------ <=0.5 S
LEVOFLOXACIN----------     4 R
OXACILLIN-------------   0.5 S
TETRACYCLINE----------  =>16 R
TRIMETHOPRIM/SULFA---- <=0.5 S
__________________________________________________________
___ 3:29 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 3:26 pm URINE

                            **FINAL REPORT ___

   URINE CULTURE (Final ___:    NO GROWTH. 
__________________________________________________________
___ 2:00 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date. 
__________________________________________________________
___ 2:19 pm BLOOD CULTURE

   Blood Culture, Routine (Pending):    No growth to date.

 
Brief Hospital Course:
Key Information for Outside Providers: 
___ is a ___ year old male with history of eczema, prior MSSA 
abscess, recent R leg abscess status post ID, who admitted with 
worsening cellulitis despite PO antibiotics, improving on IV 
antibiotics and able to be discharged home on PO Bactrim 

# RLE cellulitis and abscess 
# R leg pain 
Patient presented with worsening R leg pain and redness despite 
recent I&D of R leg abscess and treatment with doxycycline.  
Exam consistent with cellulitis without signs of persistent 
underlying fluid collection.  Given concern for MRSA, patient 
started on IV vancomycin with improvement over subsequent 48 
hours.  ___ cultures returned showing MSSA R to clindamycin, 
tetracycline, S to Bactrim; patient changed to ___ with 
plan for discharge home for total 7 day course to end on 
___. 

#Eczematous dermatitis
Hx of eczema, present for the past ___ years in his ears and in 
the past year on his hands.  Treated with OTC moisturizers, no 
recent flares.

TRANSITIONAL ISSUES:  
==================
[] Discharged on Bactrim, last day =  ___, total 7 day course. 
Please follow-up to ensure resolution of cellulitis. 

#CODE: Full (presumed)
#CONTACT: ___ ___

> 30 minutes spent on discharge
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Doxycycline Hyclate 100 mg PO Q12H 

 
Discharge Medications:
1.  Sulfameth/Trimethoprim DS 2 TAB PO BID 
RX *sulfamethoxazole-trimethoprim 800 mg-160 mg 2 tab-cap by 
mouth Two times per day Disp #*24 Tablet Refills:*0 

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
# R leg abscess
# R leg cellulitis 
# R leg pain 

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,  
 
It was a privilege caring for you at ___.  
Please see below for more information on your hospitalization. 
 
WHY WERE YOU ADMITTED TO THE HOSPITAL?  
- You had a skin infection and pain of your right leg
 
WHAT WAS DONE WHILE YOU WERE IN THE HOSPITAL?  
- We gave you IV antibiotics (Vancomycin) and your skin 
infection improved.
- We transitioned you to oral antibiotics which you will 
continue at home until ___
 
WHAT DO YOU NEED TO DO WHEN YOU LEAVE THE HOSPITAL?  
- Take all of your medications as prescribed (listed below)  
- Follow up with your doctors as listed below  
- Seek medical attention if you have new or concerning symptoms 
or you develop swelling in your legs, worsening skin infection 
of your leg, or fever/chills. 

It was a pleasure taking part in your care here at ___!  
We wish you all the best!  
- Your ___ Care Team  
 
Followup Instructions:
___